US07560568B2
Ethyl 2-(acetylamino)-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate (6.23 g, 16.0 mmol) was placed in a pressure vessel with a stir bar. 2N Ammonia in methanol (120 mL, 240 mmol) was added via syringe and the vessel was sealed. The solution was heated to 80° C. using an oil bath for 16 hours. The reaction was cooled and concentrated. The residue was dissolved in ethyl acetate and washed with half-saturated NaHCO3 and brine. The combined aqueous layers were extracted with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The solid was dissolved in approximately 50 mL of dichloromethane, and 150 mL of hexanes was added. Air was blown over the solution and hexanes added periodically to precipitate the product. The solid was filtered, washed with hexanes, and air-dried to afford 4.80 g (87%) of ethyl 2-amino-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.14 (s, 2H), 7.90 (d, J=7.7 Hz, 1H), 7.81-7.72 (m, 2H), 7.57 (m, 1H), 5.52 (s, 2H), 4.11 (q, J=7.1 Hz, 2H), 1.21 (t, J=7.1 Hz, 3H).

reactant | Ethyl 2-(acetylamino)-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate | 16.0 mmol, 6.23 g | C(C)(=O)NC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C16H15F3N2O4S
reactant | Ammonia | 2N | N | H3N
reactant | methanol | 240 mmol, 120 mL | CO | CH4O
product | ethyl 2-amino-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate | 4.80 g, 87% | NC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C14H13F3N2O3S
